US07816522B2
After adding 23.5 mg of 2-hydrazinopyrimidine and 0.030 ml of triethylamine to a solution of 100 mg of {2-(5-ethoxy-6-methoxypyridin-3-yl)-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylimino]-1-methylsulfanylethylidene}carbamic acid methyl ester in 1 ml of DMF, the mixture was stirred at 85° C. for 21 hours under a nitrogen atmosphere. The reaction mixture was concentrated, and the residue was dissolved in 2.0 ml of methanol and 0.1 ml of acetic acid. After adding 100 mg of sodium cyanotrihydroborate to the solution, the mixture was stirred at room temperature for 23 hours. The reaction mixture was crudely purified by reverse-phase high performance liquid chromatography (acetonitrile-water, 0.1% acetic acid) to give a crude product of 5-{(5-ethoxy-6-methoxypyridin-3-yl)-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamino]methyl}-2-pyrimidin-2-yl-2,4-dihydro-[1,2,4]triazol-3-one. To a solution of the obtained crude product in 3 ml of a methanol:water:acetic acid=1:1:1 mixed solvent there was added 100 mg of iron powder, and the mixture was stirred at 60° C. for 11 hours and 30 minutes under a nitrogen atmosphere. After filtering the reaction mixture, it was purified by reverse-phase high performance liquid chromatography (acetonitrile-water, 0.1% acetic acid) to give 4-{[(5-ethoxy-6-methoxypyridin-3-yl)-(5-oxo-1-pyrimidin-2-yl-4,5-dihydro-1H-[1,2,4]triazol-3-yl)methyl]amino}benzamidine acetate.

reactant | 2-hydrazinopyrimidine | 23.5 mg | N(N)C1=NC=CC=N1 | C4H6N4
reactant | triethylamine | 0.030 ml | C(C)N(CC)CC | C6H15N
reactant | {2-(5-ethoxy-6-methoxypyridin-3-yl)-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylimino]-1-methylsulfanylethylidene}carbamic acid methyl ester | 100 mg | COC(N=C(C(=NC1=CC=C(C=C1)C1=NOC(=N1)C)C=1C=NC(=C(C1)OCC)OC)SC)=O | C22H23N5O5S
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | 5-{(5-ethoxy-6-methoxypyridin-3-yl)-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamino]methyl}-2-pyrimidin-2-yl-2,4-dihydro-[1,2,4]triazol-3-one | C(C)OC=1C=C(C=NC1OC)C(C=1NC(N(N1)C1=NC=CC=N1)=O)NC1=CC=C(C=C1)C1=NOC(=N1)C | C24H23N9O4
